US07112314B2
Heptafluorobutyryl Peroxide Synthesis
A round-bottom flask is charged with 50 ml of CFC-113 and 2.0 g of sodium percarbonate (13 mmoles or 19 mmoles of H2O2 equivalent). After chilling the contents of the flask to 0° C., 3.73 ml of heptafluorobutyryl chloride (25 mmoles) is added and the resulting slurry is stirred magnetically for 3.3 hours. The reaction mixture is filtered through a pad of Drierite® on glass wool, washing through with fresh CFC-113, an operation assumed to remove any unreacted percarbonate and any free H2O2. The filtrate, now measuring 45 ml in volume, is found to be 0.10 M in peroxide for a 37% yield based on starting heptafluorobutyryl chloride. In order to make sure that all of the sodium percarbonate and hydrogen peroxide has been removed by filtration through Drierite®, the peroxide solution is washed three times with 45–50 ml of water. On retitration, the solution is found to still be 0.10 M in peroxide.

reactant | sodium percarbonate | 13 mmoles, 2.0 g | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
reactant | heptafluorobutyryl chloride | 25 mmoles, 3.73 ml | FC(C(C(=O)Cl)(F)F)(C(F)(F)F)F | C4ClF7O
solvent | CFC-113 | 50 ml | C(C(F)(Cl)Cl)(F)(F)Cl | C2Cl3F3
product | Heptafluorobutyryl Peroxide | 37% yield | FC(C(C(=O)OOC(C(C(C(F)(F)F)(F)F)(F)F)=O)(F)F)(C(F)(F)F)F | C8F14O4
